US05169547
2,6-di-tertiary-butyl-dimethylamino-p-cresol borate
A mixture of 2,6-di-tertiary-butyl-dimethylamino- p-cresol (131.5 gm, 0.5 mole), boric acid (31.0 gm, 0.5 mole), and benzene (450 ml.) was heated while stirring vigorously at 85° C. for twenty-two hours. Water (5.5 ml.) formed during reaction was collected by azeotropic distillation.At the end of the reaction, the unreacted, insoluble material was removed by filtration, and the benzene was removed under reduced pressure using a rotary evaporator. This gave a golden orange solid (129.5 gm) with a melting point of 75°-80° C.

reactant | 2,6-di-tertiary-butyl-dimethylamino- p-cresol | 0.5 mole, 131.5 gm | C(C)(C)(C)C1=C(C(=CC(=C1O)C(C)(C)C)C)N(C)C | C17H29NO
reactant | boric acid | 0.5 mole, 31.0 gm | B(O)(O)O | BH3O3
reactant | benzene | 450 ml | C1=CC=CC=C1 | C6H6
solvent | Water | 5.5 ml | O | H2O
product | 2,6-di-tertiary-butyl-dimethylamino-p-cresol borate | 129.5 gm | B(O)(O)OC1=C(C=C(C(=C1C(C)(C)C)N(C)C)C)C(C)(C)C | C17H30BNO3
